US08486962B2
To a solution of thiobenzamide (1 g, 7.3 mmol) in THF (10 ml) was added a solution of 2-bromo-1,1-diethoxy-ethane (1.4 g, 7.3 mmol) in THF (5 ml) and the reaction was heated at reflux overnight. The reaction mixture was cooled to room temperature and diluted with water (50 ml). The solution was basified with dilute sodium hydroxide and extracted with ethyl acetate: pet ether (1:4). The organic layer was then washed with water, brine and dried. Evaporation gave a residue which was purified by column chromatography over silica gel using EtOAc/pet ether as eluent to give 2-phenyl thiazole (400 mg, 34%) as solid.

reactant | thiobenzamide | 7.3 mmol, 1 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 2-bromo-1,1-diethoxy-ethane | 7.3 mmol, 1.4 g | BrCC(OCC)OCC | C6H13BrO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-phenyl thiazole | 400 mg, 34% | C1(=CC=CC=C1)C=1SC=CN1 | C9H7NS
